US04778812
2,3-Dihydro-9-methyl-1H-pyrrolo[1,2-a]indol-1-ol
Sodium borohydride (1.368 g, 36 mmole) was added portionwise to a solution of 2,3-dihydro-9-methyl-1H-pyrrolo[1,2-a]indol-1-one, prepared by the process of Example 1, Step 1, (2.22 g, 12 mmole) in methanol (200 mL). The reaction mixture was stirred at 25° C. for 2 hours, evaporated to near-dryness, and the residue suspended in water (150 mL). The product was extracted with chloroform (3×75 mL), and the combined organic layer dried over MgSO4, filtered, and evaporated to dryness. The residue was crystallized from ether to afford 1.32 g (59%) of product, m.p. 118.5°-120° C., as an off-white solid.

reactant | Sodium borohydride | 36 mmole, 1.368 g | [BH4-].[Na+]
reactant | 2,3-dihydro-9-methyl-1H-pyrrolo[1,2-a]indol-1-one | CC1=C2N(C=3C=CC=CC13)CCC2=O | C12H11NO
solvent | methanol | 200 mL | CO | CH4O
product | 2,3-Dihydro-9-methyl-1H-pyrrolo[1,2-a]indol-1-ol | 1.32 g, 59% | CC1=C2N(C=3C=CC=CC13)CCC2O | C12H13NO
